US07476666B2
Step 2: Methyl 3-benzyloxy-5,6-dimethyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate
To a solution of dimethyl 4-benzyloxy-1-(2-oxopropyl)-1H-pyrazole-3,5-dicarboxylate (80 mg, 0.231 mmol) in anhydrous CH2Cl2 were added methylamine (173 μL, 2.0M in THF), sodium triacetoxyborohydride (98 mg, 0.462 mmol), and AcOH (20 μL, 0.346 mmol). The reaction was stirred at room temperature overnight. Toluene was added to replace the evaporated solvent, and the mixture was heated to 110° C. for 3 h. The solvent was removed in vacuo, and purification was achieved by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the title product as a yellow oil. ES MS (M+1)=330.

reactant | dimethyl 4-benzyloxy-1-(2-oxopropyl)-1H-pyrazole-3,5-dicarboxylate | 0.231 mmol, 80 mg | C(C1=CC=CC=C1)OC=1C(=NN(C1C(=O)OC)CC(C)=O)C(=O)OC | C17H18N2O6
reactant | methylamine | 2.0M, 173 μL | CN | CH5N
reactant | sodium triacetoxyborohydride | 0.462 mmol, 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | AcOH | 0.346 mmol, 20 μL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | Methyl 3-benzyloxy-5,6-dimethyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylate | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(C(C2)C)C)=O)C(=O)OC | C17H19N3O4
